US09255090B2
8-(5-Carboxymethyl-2-methoxy-phenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C26H25NO5, MW=431.17)
To an ice-cooled solution of 8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (113 mg, 0.40 mmol, 1.00 eq.) in DCM (1 mL), NEt3 (0.17 mL, 1.20 mmol, 3.00 eq.) and trifluoromethanesulfonic anhydride (0.10 mL, 0.60 mmol, 1.50 eq.) were added in sequence. The reaction mixture was stirred at 0° C. for 30 min and further at r.t. for 45 min. The mixture was diluted with DCM (50 mL) and washed with sat. aq. NaHCO3 soln. (2×25 mL). The org. layer was dried over MgSO4 and concentrated in vacuo. To a mixture under N2 of the triflate, [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (128 mg, 0.40 mmol, 1.00 eq.), and sodium carbonate (170 mg, 1.60 mmol, 4.00 eq.) in toluene/EtOH/water 20:4:1 (2.5 mL), tetrakis(triphenylphosphine) palladium (0) (23 mg, 0.02 mmol, 0.05 eq.) was added. The mixture was stirred at 100° C. for 17 hours. The mixture was allowed to cool to r.t. and concentrated in vacuo. The residue was partitioned between AcOEt (20 mL) and water (10 mL). The layers were separated. The org. phase was washed with sat. aq. NaCl soln. (1×10 mL), dried over MgSO4, and concentrated in vacuo. The residue was partially purified by CC (SiO2, Hept/AcOEt 8:2 to 7:3) to give an yellow oil. The residue was dissolved in THF (3 mL) and 1M aq. NaOH (0.6 mL) was added. The resulting solution was stirred at r.t. for 68 hours. The org. solvent was removed in vacuo. The residue was diluted with water (10 mL) and acidified with 1M aq. HCl. The mixture was extracted with DCM/THF 3:1 (3×5 mL). The comb. org. phases were concentrated in vacuo. The crude product was purified by prep. HPLC (column: Waters X-Bridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to give the desired acid as a white solid.

reactant | 8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.40 mmol, 113 mg, 1.00 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC=C2CC1)O | C17H17NO3
reactant | NEt3 | 1.20 mmol, 0.17 mL, 3.00 eq. | CCN(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 0.60 mmol, 0.10 mL, 1.50 eq. | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 0.40 mmol, 128 mg, 1.00 eq. | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | sodium carbonate | 1.60 mmol, 170 mg, 4.00 eq. | C([O-])([O-])=O.[Na+].[Na+]
reactant | NaOH | 1M, 0.6 mL | [OH-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | toluene EtOH water | 2.5 mL | C1(=CC=CC=C1)C.CCO.O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg, 0.05 eq. | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-(5-Carboxymethyl-2-methoxy-phenyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC=C2CC1)C1=C(C=CC(=C1)CC(=O)O)OC | C26H25NO5
